US07378414B2
benzyl(4E)-2,7,7-trimethyl-2-phenyloct-4-enoate
A solution of 2-phenyl-propionic acid benzyl ester (3.15 g, 13.1 mmol) in tetrahydrofuran (25 mL) at −78° C. was treated dropwise with a lithium hexamethyldisilazide solution (14.4 mL, 1M in tetrahydrofuran, 14.4 mmol) and stirred for 30 minutes at −78° C. Example 35B (3.26 g, 17.0 mmol) was added to the solution and the reaction was allowed to warm to 25° C. and stirred for an additional 4 hours. The solvent was removed in vacuo and the residue was partitioned between water and ethyl acetate. The aqueous phase was extracted three times with ethyl acetate and the ethyl acetate layers were combined, washed with a saturated sodium bicarbonate solution, dried with sodium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel eluting with hexane, then 5% ethyl acetate in hexane, and 10% ethyl acetate in hexane to give the title compound (3.32 g, 72%). 1H NMR (300 MHz, CDCl3): δ ppm 0.80 (m, 9 H) 1.53 (m, 3 H) 1.79 (m, 2H) 2.63 (m, 1 H) 2.82 (m, 1 H) 5.10 (m, 2 H) 5.18 (m, 1 H) 5.47 (m, 1 H) 7.27 (m, 10 H). MS (ESI+) m/z 368 (M+NH4)+.

reactant | 2-phenyl-propionic acid benzyl ester | 13.1 mmol, 3.15 g | C(C1=CC=CC=C1)OC(C(C)C1=CC=CC=C1)=O | C16H16O2
reactant | lithium hexamethyldisilazide | 14.4 mmol, 1M, 14.4 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | benzyl(4E)-2,7,7-trimethyl-2-phenyloct-4-enoate | 3.32 g, 72% | CC(C(=O)OCC1=CC=CC=C1)(C\C=C\CC(C)(C)C)C1=CC=CC=C1 | C24H30O2
